US07723356B2
Sii) (2R,5S)-2-tert-Butyl-5-(1-hydroxy-cyclohexyl)-5-phenyl-[1,3]dioxolan-4-one
To a cooled (−78° C.) solution of 1 M lithium bis(trimethylsilyl)amide in hexanes (1 litre, 1 mol) is added dropwise (R)-2-tert-butyl-5-phenyl-[1,3]dioxolan-4-one (170 g, 0.77 mol) in THF (1.1 litre) over 90 minutes ensuring the temperature does not exceed −70° C. After stirring at −78° C. for 1 hour, cyclohexanone (112 ml, 1.1 mol) is added dropwise over 15 minutes and then stirring continued at −78° C. for another hour. The reaction is quenched by addition of 10% aqueous ammonium chloride solution (170 ml) and after warming to −20° C., a further 2 litres of 10% aqueous ammonium chloride solution is added. The aqueous portion is separated and extracted with EtOAc (500 ml). The organic portions are combined, dried over MgSO4 and concentrated in vacuo. The resulting crude product is slurried in heptane for 20 minutes and then filtered and dried in vacuo to afford the titled compound as a white solid.

reactant | lithium bis(trimethylsilyl)amide | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (R)-2-tert-butyl-5-phenyl-[1,3]dioxolan-4-one | 0.77 mol, 170 g | C(C)(C)(C)[C@@H]1OC(C(O1)=O)C1=CC=CC=C1 | C13H16O3
reactant | cyclohexanone | 1.1 mol, 112 ml | C1(CCCCC1)=O | C6H10O
solvent | THF | 1.1 litre | C1CCOC1 | C4H8O
product | (2R,5S)-2-tert-Butyl-5-(1-hydroxy-cyclohexyl)-5-phenyl-[1,3]dioxolan-4-one | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)C1(CCCCC1)O | C19H26O4
